data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1691,1867,[CH3:13][O:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21]([CH3:22])[n+:23]1[CH3:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]1([C:15]([O:14][CH3:13])=[O:16])[O:18][C:19](=[O:20])[C:21]2([CH3:22])[N:23]1[CH3:24],water,298.15,29.722520485549325,4.6288430207899225
4282,4898,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:15]([C:16]#[N:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,8.495328419621728,-37.77483295743997
4520,5155,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:15]([C:16]([CH3:17])=[O:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]=[C:13]1[C:11]([CH3:10])=[O:12],water,298.15,16.764531185067028,-24.1485633241684
4188,4791,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][NH-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][NH:16]1,water,298.15,7.120728723128424,-42.52399766208819
80,91,[CH3:1][O:2][C:3]#[C:4][C:5]([CH3:6])=[O:7].[CH3:8][O:9][C:10](=[O:11])[C:12]#[N+:13][C-:14]([CH3:15])[CH3:16]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[C:14]([CH3:15])([CH3:16])[N:13]=[C:12]1[C:10]([O:9][CH3:8])=[O:11],water,298.15,9.574339474173618,-67.60502778482045
4941,5627,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[CH-:19][O+:20]=[C:21]([CH3:22])[C:23](=[O:24])[O:25][CH3:26]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([CH3:22])[C:23](=[O:24])[O:25][CH3:26],water,298.15,13.945609479707544,-36.271676995745366
2797,3108,[CH3:27][C:28](=[O:29])[C:30]([CH3:31])=[O+:32][N-:33][c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1.[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:30]([C:28]([CH3:27])=[O:29])([CH3:31])[O:32][N:33]2[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,28.23754653358224,-44.55129943775262
1091,1189,[CH2-:15][NH+:16]=[C:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[NH:23][CH3:24])[NH:16][CH2:15]3,water,298.15,13.097639900038324,-34.231802613099624
382,414,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][N-:17][C:18]([CH3:19])=[O:20].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[N:17]([C:18]([CH3:19])=[O:20])[NH:16][C:14]3([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,19.18444836819978,-34.36511114484404
3916,4480,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[O+:16]=[C:17]([CH3:18])[C:19]([CH3:20])=[O:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14]#[N:15])[O:16][C:17]2([CH3:18])[C:19]([CH3:20])=[O:21],water,298.15,5.628010490473392,-38.41666252950331
338,367,[CH:10]#[N+:11][N-:12][C:13]([CH3:14])=[O:15].[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[N:12]([C:13]([CH3:14])=[O:15])[N:11]=[CH:10]2,water,298.15,21.09649708293231,-45.272161493262345
1760,1950,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]3([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,12.52584215426782,-52.728451153437526
